US04808580
A mixture of 6.6 g (0.017 mol) of (±)-(R*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid methyl ester, 45 ml ethanol and 100 ml 1N sodium hydroxide was heated at reflux for 30 minutes. The reaction mixture was cooled to room temperature, diluted with water (50 ml) and extracted with ether. The aqueous solution was chilled, then neutralized with acetic acid and extracted with ethyl acetate (3×60 ml). The combined extracts were washed with water (50 ml) and dried (MgSO4). Removal of the solvent gave 5.5 g of crude (±)-(R*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid which was dissolved in methylene chloride and chromatographed on a column using 55 g of silica gel. The column was eluted with 50 ml portions of methylene chloride. Fractions 12-17 were collected, and the solvent was removed under reduced pressure to afford 1.3 g (20%) of (±)-(R*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid. The analyzed sample was recrystallized from ether, mp 160°-161°.

reactant | (±)-(R*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid methyl ester | 0.017 mol, 6.6 g | COC([C@H]([C@@H](C1=CC=C(C=C1)OC)SC1=C(C2=CC=CC=C2C=C1)N)O)=O | C21H21NO4S
reactant | ethanol | 45 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | (±)-(R*,R*)-β-[(1-amino-2-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid | 5.5 g | NC1=C(C=CC2=CC=CC=C12)S[C@@H]([C@@H](C(=O)O)O)C1=CC=C(C=C1)OC | C20H19NO4S
